US07452949B2
4a Preparation of 2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one (4a)
Methacryl chloride (37.5 ml, 375 mmol) was added at −70° C. to well-stirred suspension of AlCl3 (100 g, 750 mmol) in CH2Cl2 (600 ml). After 20 min tetrahydronaphthalene (49.5 g, 375 mmol) was added. Reaction mixture was allowed to warm to room temperature, stirred for 16 h and poured into ice water-HCl (1 l/150 ml). Organic layer was separated, water layer was extracted by CH2Cl2 (2100 ml). Combined organic phases were washed by water, aq. NaHCO3, dried over MgSO4 and evaporated. Vacuum distillation (130-140° C./0.5 Torr) a mixture of ketones. After storage within 5 days desired isomer stays liquid and can be separated by decantation. The yield 30 g (40%).

reactant | Methacryl chloride | 375 mmol, 37.5 ml | CC(=C)C(=O)Cl | C4H5ClO
reactant | AlCl3 | 750 mmol, 100 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | tetrahydronaphthalene | 375 mmol, 49.5 g | C1CCCC2=CC=CC=C12 | C10H12
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-2,3,5,6,7,8-hexahydro-1H-cyclopenta[b]naphthalen-1-one | CC1CC=2C(=CC=3CCCCC3C2)C1=O | C14H16O
